US08222414B2
[(R)-2-(7-nitro-5-phenoxymethyl-1H-indol-2-yl)-4,5-dihydro-thiazol-4-yl]-acetic acid methyl ester
Phenol (192 mg, 2.04 mmol) was dissolved in DMF. NaH (60% mineral oil, 82 mg, 2.04 mmol) was added, and the reaction solution was cooled to 0°. (R)-2-(5-chloromethyl-7-nitro-1H-indol-2-yl)-4,5-dihydro-thiazol-4-yl-acetic acid methyl ester (500 mg, 1.36 mmol) prepared in Preparation 42, which was dissolved in DMF, was slowly added thereto. The reaction solution was warmed to room temperature, and stirred for 4 h. After saturated aqueous NH4Cl solution was added to quench the reaction, the reaction mixture was extracted with EtOAc, dried over MgSO4, and filtered. The solvent was removed under reduced pressure, and the residue was purified by column chromatography (eluent: EtOAc/n-Hex=1/2) to give the title compound.

reactant | Phenol | 2.04 mmol, 192 mg | C1(=CC=CC=C1)O | C6H6O
reactant | NaH | 2.04 mmol, 82 mg | [H-].[Na+]
reactant | (R)-2-(5-chloromethyl-7-nitro-1H-indol-2-yl)-4,5-dihydro-thiazol-4-yl-acetic acid methyl ester | 1.36 mmol, 500 mg | COC(C[C@H]1N=C(SC1)C=1NC2=C(C=C(C=C2C1)CCl)[N+](=O)[O-])=O | C15H14ClN3O4S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | CN(C)C=O | C3H7NO
product | [(R)-2-(7-nitro-5-phenoxymethyl-1H-indol-2-yl)-4,5-dihydro-thiazol-4-yl]-acetic acid methyl ester | COC(C[C@H]1N=C(SC1)C=1NC2=C(C=C(C=C2C1)COC1=CC=CC=C1)[N+](=O)[O-])=O | C21H19N3O5S
